US04822805
To a suspension of 1-hydroxyimino-1-(3-pyridyl)acetone (1.5 g) in a mixture of dioxane (30 ml) and ethanol (8 ml) were added conc. ammonia water (40 ml) and 2-methoxybenzaldehyde (1.24 g), and the mixture was stirred at ambient temperature for 8 days. After evaporation, the mixture was triturated with chloroform to give 1-hydroxy-2-(2-methoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole (1.65 g).

reactant | 1-hydroxyimino-1-(3-pyridyl)acetone | 1.5 g | ON=C(C(=O)C)C=1C=NC=CC1 | C8H8N2O2
reactant | ammonia water | 40 ml | O.N
reactant | 2-methoxybenzaldehyde | 1.24 g | COC1=C(C=O)C=CC=C1 | C8H8O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 1-hydroxy-2-(2-methoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole | 1.65 g | ON1C(=NC(=C1C=1C=NC=CC1)C)C1=C(C=CC=C1)OC | C16H15N3O2
